US08623889B2
Step 1: 4-(1-bromoethyl)benzoyl chloride
To a solution of 4-(1-bromoethyl)benzoic acid (50.7 mg, 0.221 mmol) in methylene chloride (4.0 mL, 62 mmol) was added 2.0 M of oxalyl chloride in methylene chloride (0.25 mL) followed by 3 drops of N,N-dimethylformamide. The reaction mixture was stirred at room temperature for one hour, and then evaporated in vacuo to remove dichloromethane and excess oxalyl chloride. The crude product was carried forward without purification.

reactant | 4-(1-bromoethyl)benzoic acid | 0.221 mmol, 50.7 mg | BrC(C)C1=CC=C(C(=O)O)C=C1 | C9H9BrO2
reactant | oxalyl chloride | 2.0 M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 0.25 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 62 mmol, 4.0 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-bromoethyl)benzoyl chloride | BrC(C)C1=CC=C(C(=O)Cl)C=C1 | C9H8BrClO
